US04175190
4.5 G. of diethyl 6-piperidino-2,4-pyrimidine-dicarbamate-3-oxide are treated under an argon atmosphere with 60 ml. of toluene and the mixture is heated to reflux for 12 hours. After cooling the mixture, the precipitate is filtered off and recrystallized from ether, there being obtained pure ethyl 5-piperidino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]pyrimidine-7-carbamate, having a melting point of 209°-210° C. (decomposition).

reactant | diethyl 6-piperidino-2,4-pyrimidine-dicarbamate-3-oxide | N1(CCCCC1)C1=CC(=[N+](C(=N1)NC(=O)OCC)[O-])NC(=O)OCC | C15H23N5O5
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethyl 5-piperidino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]pyrimidine-7-carbamate | N1(CCCCC1)C1=NC=2N(C(=C1)NC(=O)OCC)OC(N2)=O | C13H17N5O4
